Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Dapsone
 
Attending: ___.
 
Chief Complaint:
Rash
 
Major Surgical or Invasive Procedure:
None during this hospitalization
 
History of Present Illness:
___ is a ___ man with past medical history 
of HIV and recently diagnosed high-grade CNS B-Cell lymphoma, 
status post high-dose MTX and dexamethasone who presents with a 
___ rash. The rash began on ___ on just superior to 
his anus. He knew this rash was there because he could feel the 
rash with his hand. The rash then began to become more 
pronounced on ___ and became itchy with spread to his anus. 
He described his anus, in ___, as "agitated". Then, on 
___, the rash became larger and harder. He does not know if 
there was any drainage. He denies using any new products - 
lotions, detergents, etc. recently. He states that he has had 
these bisters ___ times in the past ___ years and has had 
acyclovir for them. He also states that he has had zoster 
before. His rash now feels like what he has experienced in the 
past. In terms of his sexual history, he used to have sex with 
men and women but now only with women. His last new partner was 
in ___ and ___ has not had sex since then. Of note, pt gets 
his care at ___ but frequently travels to ___ 
___.
 
Past Medical History:
CAD s/p BMS (___)
HIV on HAART (VL undetectable)
h/o pancreatitis ___ HIV medication
HTN
HLD
Gastric ulcer

 
Social History:
___
Family History:
It is notable for father and brother with prostate cancer, 
several paternal aunts with breast cancer and maternal uncles 
with diabetes.
 
Physical Exam:
======================
Admission Examination
======================
Vital Signs: Temperature 98.5 F, blood pressure 118/72, heart 
rate 66, respiration 16, and oxygen saturation 99% in room air
General: well-appearing, pleasant, no distress
HEENT: well-healing scalp incision right occipital area, no 
tenderness, clear oral pharynx, no vesicular lesions, anicteric 
sclerae
Neck: no adenopathy
Cardiovascular: RRR, normal S1, S2, no murmurs
Lungs: lungs clear bilaterally
Abdomen: soft, non-tender, non-distended, no organomegaly
Perineum: crops of flesh-colored papules near anus; also clear 
vesicular lesions in gluteal fold, left > right, with small skin 
tear between anus and scrotum, no surrounding erythema
Skin: tiny erythematous pustules near hair follicles of chest, 
near right ear
Extremities: 2+ radial and DP pulses, no edema

Neurological Examination: His Karnofsky Performance Score is 70. 
He is awake, alert, and oriented times 3.  His language is 
fluent with good comprehension, naming, and repetition (he 
speaks ___.  Recent recall is intact.  Cranial Nerve 
Examination: His pupils are equal and reactive to light, 4 mm to 
2 mm
bilaterally.  Extraocular movements are full; there is no 
nystagmus.  Visual fields are full to confrontation.  His face 
is symmetric.  Facial sensation is intact bilaterally.  His 
hearing is intact bilaterally.  His tongue is midline.  Palate 
goes up in the midline.  Sternocleidomastoids and upper 
trapezius are strong.  Motor Examination:  He does not have a 
drift.  His
muscle strengths are ___ at all muscle groups.  His muscle tone 
is normal.  His reflexes are 2- bilaterally.  His ankle jerks 
are absent.  His toes are down going.  Sensory examination is 
intact to touch and proprioception.  Coordination examination 
does not reveal dysmetria.  His gait is steady.  He has 
difficulty performing tandem gait.  He has a Romberg.

========================
Discharge Examination
========================
Vital Signs: Temperature 98.1 F, heart rate 62, blood pressure 
114/73, and oxygen saturation 100% in room air
General: NAD
HEENT: NCAT, EOMI, PERRLA
Neck: no JVD, no LAD
Cardiovascular: RRR
Lungs: CTAB
Abdomen: +BS, soft, NT/ND
Genitourinary: multiple fluid filled perianal vesicles and 
superior lesions that are larger in gluteal fold, some have 
opened and dried, 2 ___ ulcers with clean bases
Extremities: warm, +2 ___ pulses, warm

Neurological Examination: His ___ Performance Score is 70. 
He is awake, alert, and oriented times 3.  His language is 
fluent with good comprehension (he speaks ___.  Recent 
recall is intact.  Cranial Nerve Examination:  His pupils are 
equal and reactive to light, 4 mm to 2 mm bilaterally.  
Extraocular
movements are full; there is no nystagmus.  Visual fields are 
full to confrontation.  His face is symmetric.  Facial sensation 
is intact bilaterally.  His hearing is intact bilaterally.  His 
tongue is midline.  Palate goes up in the midline. 
Sternocleidomastoids and upper trapezius are strong.  Motor 
Examination:  He does not have a drift.  His muscle strengths 
are
___ at all muscle groups.  His muscle tone is normal.  His 
reflexes are 2- bilaterally.  His ankle jerks are absent.  His 
toes are down going.  Sensory examination is intact to touch and 
proprioception.  Coordination examination does not reveal 
dysmetria.  His gait is steady.  He has a Romberg.
 
Pertinent Results:
======================
admission
======================

___ 07:15PM BLOOD WBC-11.8*# RBC-5.53 Hgb-17.0 Hct-49.8 
MCV-90 MCH-30.8 MCHC-34.2 RDW-12.5 Plt ___
___ 07:15PM BLOOD Neuts-90.9* Lymphs-5.0* Monos-3.2 Eos-0.3 
Baso-0.7
___ 07:15PM BLOOD Glucose-176* UreaN-26* Creat-0.9 Na-130* 
K-5.0 Cl-94* HCO3-23 AnGap-18

=======================
discharge
=======================

___ 06:50AM BLOOD WBC-7.2 RBC-4.90 Hgb-15.0 Hct-44.8 MCV-91 
MCH-30.5 MCHC-33.4 RDW-12.4 Plt Ct-86*
___ 06:50AM BLOOD Glucose-168* UreaN-19 Creat-0.6 Na-129* 
K-4.6 Cl-94* HCO3-23 AnGap-17
___ 06:50AM BLOOD Calcium-8.6 Phos-3.7 Mg-2.0

=======================
pertinent
=======================

___ 08:14PM BLOOD Lactate-3.9*
___ 12:26AM BLOOD Lactate-4.7*
___ 03:37AM BLOOD Lactate-3.6*
___ 09:50AM BLOOD Lactate-3.6*
___ 05:47PM BLOOD Lactate-3.9*
___ 09:50AM BLOOD ___ pH-7.46* Comment-GREEN TOP 
___ 05:47PM BLOOD ___ pH-7.44
___ 09:40AM BLOOD Osmolal-272*

=====================
micro
=====================
___ 9:31 am 
      Direct Antigen Test for Herpes Simplex Virus Types 1 & 2
      LOWER BUTTOCK VESICLES. 

                            **FINAL REPORT ___

   Direct Antigen Test for Herpes Simplex Virus Types 1 & 2 
(Final
      ___: 
      Reported to and read back by ___ ___ ___ 1150AM. 

      POSITIVE FOR HERPES SIMPLEX TYPE 2 (HSV2). 
         Viral antigen identified by immunofluorescence.

___ 8:50 pm URINE      SOURCE: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    10,000-100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------     4 S
CEFTRIAXONE-----------    32 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S 
 
Brief Hospital Course:
___ is a ___ man with past medicla history 
of high-grade CNS lymphoma, HIV presents with painful anal rash.

1. HSV Infection: Direct antigen from scrapings of base of 
ulcers returned as positive for HSV. No evidence of disseminated 
HSV infection. Pt reports he has had multiple infections with 
HSV in the past ___ years that have been treated with acyclovir. 
He was started on acyclovir with improvement in his symptoms and 
rash. He will complete a treatment course of acyclovir followed 
by continuing acyclovir at a prophylactic dose for continued 
suppression. 

2. Hyperlactatemia: Unknown etiology, did not respond to fluid 
resuscitation. Likely type 2 lactic acidosis due to NRTIs, less 
likely CNS lymphoma. Lack of evidence of hypoperfusion and 
sepsis argues against type I lactic acidosis. Per ___ 
attending, HAART unlikely to be culprit as pt has been 
stabilized on this regimen for awhile but unknown if lactate had 
ever been checked. Will have this followed up as an outpatient. 

3. Asymptomatic Bacteriuria: Urine culture grew e coli. Treated 
with three days of antibiotics. 

4. CNS Lymphoma: He is status post high-dose MTX, continues on 
dexamethasone; no evidence of meningitis. He will follow up with 
Dr. ___ continuing chemotherapy. 

5. Hyponatremia: He appears euvolemic. Serum osmolality low, 
urine sodium inappropriately high. This is most likely c/w 
SIADH. Most likely related to underlying intracranial disease.

6. Thrombocytopenia: It is possibly due to MTX. no other new 
medications. Stable but low. 

7. HIV: He is well controlled, CD 4 count 245, suppressed viral 
load. HAART re-started. 

8. CAD: s/p remote PCI with BMS, stable, cont ASA, BB, ACEi

9. GERD: PPI

========================
transitional issues
========================
* Follow up Dr. ___ ___ for discussion about when 
chemotherapy will continue
* Continue acyclovir at prophylactic dose after completing 
treatment for HSV
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
2. Lisinopril 5 mg PO DAILY 
3. Lopinavir-Ritonavir 2 TAB PO BID 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Omeprazole 40 mg PO DAILY 
6. Pravastatin 40 mg PO DAILY 
7. Dexamethasone 4 mg PO Q12H 
8. Aspirin 81 mg PO DAILY 
9. Fish Oil (Omega 3) 1000 mg PO DAILY
 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Dexamethasone 4 mg PO DAILY 
RX *dexamethasone 4 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
3. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 
5. Lisinopril 5 mg PO DAILY 
6. Lopinavir-Ritonavir 2 TAB PO BID 
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. Omeprazole 40 mg PO DAILY 
9. Pravastatin 40 mg PO DAILY 
10. Acyclovir 800 mg PO Q8H until ___ 
RX *acyclovir 800 mg 1 tablet(s) by mouth every eight hours Disp 
#*21 Capsule Refills:*0
11. Docusate Sodium 100 mg PO BID prn constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0
12. Senna 1 TAB PO BID prn constipation 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth twice a day 
Disp #*30 Capsule Refills:*0
13. Acyclovir 200 mg PO DAILY starting ___ onwards 
RX *acyclovir 200 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0
14. Outpatient Lab Work
please check chem 10, lactate on ___ at ___ and review 
results with Dr ___ (Phone: ___, Fax: 
___ 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
1. anal herpes simplex
2. urinary tract infection, complicated
3. hyponatremia
4. hyperlactic acidosis

SECONDARY
5. HIV
6. CNS lymphoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at the ___ 
___. You came into the hospital because of 
a painful rash that you had. We took a sample of the rash and we 
confirmed that it is herpes simplex virus 2 (hSV 2). You were 
given a medication called acyclovir that helps treat your 
infection. Please continue to take the treatment dose of 
acyclovir, 800mg every 8 hours for 7 days (ie until ___. 
After that you will need to continue taking a prevention dose 
daily (200mg once a day) until you complete your chemotherapy.
You are being discharged on a bowel regimen to keep the stools 
soft to prevent pain while the HSV2 is healing. Please apply 
vaseline to the area daily to prevent dryness. 

 As you know, this is a recurrent infection. For your safety, 
and the safety of your sexual partners, you should always use 
protection as herpes is transmissible during sexual encounters.

We also reduced the dose of your dexamethasone to 4mg once a 
day. 
Please discuss on your appt with Dr ___ you should continue 
taking this medication. 

You will see Dr ___ on ___, and he will decide based 
on how the herpes is healing, whether you can have your 
chemotherapy on ___

Thank you for choosing ___.
 
Followup Instructions:
___